US06727264B1
2-(4-CHLOROPHENOXY)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)NICOTINAMIDE:
Prepared by Procedure Q1 (THF) and Scheme AT using N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide and 2-(4-chlorophenoxy)nicotinoyl chloride: ESMS m/e: 535.2 (M+H)+.

reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
reactant | 2-(4-chlorophenoxy)nicotinoyl chloride | ClC1=CC=C(OC2=C(C(=O)Cl)C=CC=N2)C=C1 | C12H7Cl2NO2
solvent | THF | C1CCOC1 | C4H8O
product | 2-(4-CHLOROPHENOXY)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)NICOTINAMIDE | ClC1=CC=C(OC2=C(C(=O)NCCCN3CCC(CC3)C3=CC(=CC=C3)NC(C(C)C)=O)C=CC=N2)C=C1 | C30H35ClN4O3
